US04533661
Ethoxy(6-phthalimidohexyl)phosphinyl chloride and (S)-3-amino-2-oxopiperidineacetic acid, ethyl ester are reacted according to the procedure of Example 1(g) to give (S)-3-[[ethoxy(6-phthalimidohexyl)phosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester.

reactant | Ethoxy(6-phthalimidohexyl)phosphinyl chloride | C(C)OP(=O)(CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C16H21ClNO4P
reactant | (S)-3-amino-2-oxopiperidineacetic acid, ethyl ester | N[C@@H]1C(N(CCC1)CC(=O)OCC)=O | C9H16N2O3
product | (S)-3-[[ethoxy(6-phthalimidohexyl)phosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester | C(C)OP(=O)(CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@@H]2C(N(CCC2)CC(=O)OCC)=O | C25H36N3O7P
